US07915415B2
3,5-Dimethyl-6-phenanthridinamine (8.6 g, 39 mmol), a 50% solution of acetyl chloride (4.6 g, 58 mmol) in water, sodium bicarbonate (6.5 g, 77.4 mmol) in 258 mL of isopropyl alcohol were heated to reflux for 40 hours. After cooling the crude product was dissolve into methylene chloride and vacuum filtered. The filtrate was concentrated and the crude product was crystallized in methylene chloride and ethyl acetate mixture. The pure product was collected by vacuum filtration to give 5,7-dimethyl-imidazo[1,2-f]phenanthridine) (3.8 g, 40% yield) as determined by NMR.

reactant | 3,5-Dimethyl-6-phenanthridinamine | 39 mmol, 8.6 g | CC=1C=CC=2C3=CC=CC=C3C(N(C2C1)C)N | C15H16N2
reactant | acetyl chloride | 58 mmol, 4.6 g | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | 77.4 mmol, 6.5 g | C([O-])(O)=O.[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | isopropyl alcohol | 258 mL | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 5,7-dimethyl-imidazo[1,2-f]phenanthridine | 40% yield | CC1=CC(=CC=2C=3C=CC=CC3C=3N(C12)C=CN3)C | C17H14N2
